US08114865B2
Preparation of N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(2-dimethylamino-1-methyl-ethylamino)-2-(tetrahydro-pyran-4-ylamino)-benzamide [(I), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(2-dimethylamino-1-methyl-ethylamino)-2-(tetrahydro-pyran-4-ylamino)-phenyl], cpd. 127
To a solution of 4-amino-N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide (1.56 g, 1.8 mmol) in dichloromethane (30 mL) was added trifluoroacetic acid (2.78 mL, 36 mmol), tetramethylammonium triacetoxyborohydride (710 mg, 2.7 mmol) and 1-dimethylamino-propan-2-one (316 microL, 2.7 mmol). The mixture was stirred at room temperature overnight then additional tetramethylammonium triacetoxyborohydride (710 mg, 2.7 mmol) and 1-dimethylamino-propan-2-one (316 microL, 2.7 mmol) were added. The mixture was heated at reflux and stirred for additional 6 hours. After evaporation of the volatiles, the residue was chromatographed on silica gel eluting with dichloromethane/methanol/triethylamine 90:10:0.1 affording 845 mg of N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(2-dimethylamino-1-methyl-ethylamino)-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide that was dissolved in methanol (5 mL) and triethylamine (2 mL) and stirred at 50° C. for 6 hours. The mixture was then evaporated to dryness and the residue purified by flash chromatography on silica gel eluting with dichloromethane/methanol/30% NH4OH 92:8:0.5 affording 416 mg of the title compound as pale yellow solid.

reactant | 4-amino-N-[5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-yl]-2-[(tetrahydro-pyran-4-yl)-(2,2,2-trifluoro-acetyl)-amino]-benzamide | 1.8 mmol, 1.56 g | NC1=CC(=C(C(=O)NC2=NN(C3=CC=C(C=C23)S(=O)(=O)C2=CC(=CC(=C2)F)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C46H36F5N5O5S
reactant | trifluoroacetic acid | 36 mmol, 2.78 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tetramethylammonium triacetoxyborohydride | 2.7 mmol, 710 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | 1-dimethylamino-propan-2-one | 2.7 mmol | CN(CC(C)=O)C | C5H11NO
reactant | tetramethylammonium triacetoxyborohydride | 2.7 mmol, 710 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | 1-dimethylamino-propan-2-one | 2.7 mmol | CN(CC(C)=O)C | C5H11NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-[5-(3,5-difluoro-benzenesulfonyl)-1H-indazol-3-yl]-4-(2-dimethylamino-1-methyl-ethylamino)-2-(tetrahydro-pyran-4-ylamino)-benzamide | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NNC2=CC1)NC(C1=C(C=C(C=C1)NC(CN(C)C)C)NC1CCOCC1)=O | C30H34F2N6O4S
